US04045445
The general procedures of Example 1 are repeated. From 2-amino-4-chloro-N-methyldiphenylamine and 1-ethylisonipecotoyl chloride, 5'-chloro-1-ethyl-2'-(N-methylanilino)-isonipecotanilide is prepared. This intermediate is cyclized by heating with a mixture of phosphorus oxychloride and phosphorus pentoxide and, after isolation and purification by the methods described in Examples 1 and 2, 8-chloro-11-(1-ethyl-4-piperidyl)-5-methyl-5H-dibenzo[b,e][1,4]diazepine is obtained.

reactant | 1-ethylisonipecotoyl chloride | C(C)N1CCC(C(=O)Cl)CC1 | C8H14ClNO
reactant | 5'-chloro-1-ethyl-2'-(N-methylanilino)-isonipecotanilide | ClC=1C=CC(=C(NC(C2CCN(CC2)CC)=O)C1)N(C1=CC=CC=C1)C | C21H26ClN3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 8-chloro-11-(1-ethyl-4-piperidyl)-5-methyl-5H-dibenzo[b,e][1,4]diazepine | ClC=1C=CC2=C(N=C(C3=C(N2C)C=CC=C3)C3CCN(CC3)CC)C1 | C21H24ClN3
